US07470715B2
To a solution consisting of 1-(4-methoxy-phenyl)-2-phenyl-ethanone (commercially available, 1011 g, 4468 mmoles) in absolute ethanol (2 gallons) is added hydroxylamine hydrochloride (373 g, 5362 mmoles) and sodium acetate (440 g, 5362 mmoles.) The reaction mixture is stirred at room temperature for two days. The mixture is diluted with water (8 L) and the resultant mixture is stirred at room temperature for one hour. The mixture is subsequently filtered to give a solid, which is rinsed with water (3×4 L.) The product is dried to afford the synthetic intermediate 1-(4-methoxy-phenyl)-2-phenyl-ethanone oxime (948 g.)

reactant | 1-(4-methoxy-phenyl)-2-phenyl-ethanone | COC1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C15H14O2
reactant | hydroxylamine hydrochloride | 5362 mmoles, 373 g | Cl.NO
reactant | sodium acetate | 5362 mmoles, 440 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 2 gallons | C(C)O | C2H6O
solvent | water | 8 L | O | H2O
product | 1-(4-methoxy-phenyl)-2-phenyl-ethanone oxime | 948 g | COC1=CC=C(C=C1)C(CC1=CC=CC=C1)=NO | C15H15NO2
